US04357429
About 50 parts by weight of an aqueous sodium silicate solution containing about 15% Na2O and 25% SiO2 by weight, 10 parts by weight of propylene oxide, 2 parts by weight of adipic acid, 0.2 parts by weight of sodium stearate and 0.1 part by weight of benzoyl peroxide are mixed then added to an autoclave and a temperature of about 50° C. is maintained at a pressure between 7.0 and 7.1 kg per cm2. Vinyl chloride monomer is slowly added while agitating over a period of 7 to 10 hours until the emulsion contains about 30% vinyl chloride polymerized with the sodium silicate and propylene oxide thereby producing an emulsion of poly(sodium silicate-vinyl chloride-propylene oxide) copolymer.

reactant | sodium silicate | [Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+]
reactant | propylene oxide | C1C(C)O1 | C3H6O
reactant | adipic acid | C(CCCCC(=O)O)(=O)O | C6H10O4
reactant | sodium stearate | C(CCCCCCCCCCCCCCCCC)(=O)[O-].[Na+]
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | Vinyl chloride | C(=C)Cl | C2H3Cl
product | sodium silicate vinyl chloride propylene oxide | [Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+].C(=C)Cl.C1C(C)O1 | InChI=1S/C3H6O.C2H3Cl.4Na.O4Si/c1-3-2-4-3;1-2-3;;;;;1-5(2,3)4/h3H,2H2,1H3;2H,1H2;;;;;/q;;4*+1;-4
